US07001897B2
To a solution of N-carbobenzyloxy-L-serine (4.0 g, 16.7 mmol) in benzene (200 ml) and methanol (50 ml) was added a solution of 2M trimethylsilyldiazomethane in hexane (10.9 ml, 21.7 mmol) in an ice bath, and the mixture was stirred at room temperature for 3 hours. After checking the completion of the reaction, the reaction mixture was concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using n-hexane:ethyl acetate (1:1→1:3) as the eluant to afford N-carbobenzyloxy-L-serine methyl ester (4.40 g, yield 100%) as a colorless oil.

reactant | N-carbobenzyloxy-L-serine | 16.7 mmol, 4.0 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](CO)C(=O)O | C11H13NO5
reactant | trimethylsilyldiazomethane | 2M | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | hexane | 21.7 mmol, 10.9 ml | CCCCCC | C6H14
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | methanol | 50 ml | CO | CH4O
product | N-carbobenzyloxy-L-serine methyl ester | 4.40 g, yield 100% | COC([C@@H](NC(=O)OCC1=CC=CC=C1)CO)=O | C12H15NO5
